US06329370B1
1-[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-1-yl]-pyrrolidin-2-one (Compound 28)
A solution of 2-pyrrolidinone (0.14 ml, 1.83 mmoles) in dry DMF (10 ml) under N2 was added with NaH (0.068 g, 1.7 mmoles; 60% in oil) and the mixture was heated to 40° C. for 1 hour, cooled and added with 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (0.5 g, 1.41 mmoles), prepared as described in example 45. The mixture was heated to 80° C. overnight, then poured into water (10 volumes) and extracted three times with ethyl acetate. The organic phase was discoloured with charcoal, anhydrified and concentrated to give a solid which was flash chromatographed (eluent: ethyl acetate/petrolatum 9:1). The resultant solid was triturated in ethyl ether and 0.306 g of the title compound were yielded (yield: 53%). m.p.: 223-225° C.

reactant | 2-pyrrolidinone | 1.83 mmoles, 0.14 ml | N1C(CCC1)=O | C4H7NO
reactant | NaH | 1.7 mmoles, 0.068 g | [H-].[Na+]
reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 1.41 mmoles, 0.5 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10Cl3N3O
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-1-yl]-pyrrolidin-2-one | 0.306 g, yield: 53% | ClC=1C=NC=C(C1CC1=NNC(C2=CC(=CC=C12)OC)N1C(CCC1)=O)Cl | C19H18Cl2N4O2
